US06384220B2
A mixture of 2-biphenyl-4-yl-3-cyclopentylpropionic acid methyl ester (415.5 mg, 1.35 mmol) and urea (202.3 mg, 3.37 mmol, 2.5 equiv) was treated with a solution of magnesium methoxide in methanol (7.4 wt. %, 7.7 mL, 5.39 mmol). The resulting reaction mixture was then heated under reflux for 23 h. The reaction mixture was allowed to cool to 25° C. and then filtered through celite. The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate then 1/1 hexanes/ethyl acetate) afforded (2-biphenyl-4-yl-3-cyclopentyl-propionyl) urea (67.8 mg, 15%) as a white solid: mp 184-185° C.; FAB-HRMS m/e calcd for C21H24N2O2 (M+H)+ 337.1917, found 337.1924.

reactant | 2-biphenyl-4-yl-3-cyclopentylpropionic acid methyl ester | 1.35 mmol, 415.5 mg | COC(C(CC1CCCC1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C21H24O2
reactant | urea | 3.37 mmol, 202.3 mg, 2.5 equiv | NC(=O)N | CH4N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 5.39 mmol, 7.7 mL | CO | CH4O
product | (2-biphenyl-4-yl-3-cyclopentyl-propionyl) urea | 67.8 mg, 15% | C1(=CC=C(C=C1)C(C(=O)NC(=O)N)CC1CCCC1)C1=CC=CC=C1 | C21H24N2O2
